US05011935
Peparation of 1,1'-(oxydiethylene)-bis(2-methyl imidazole) (dehydration reaction)
2-Methyl imidazole (279 g; 3.4 moles), diethylene glycol (159 g; 1.5 mole), toluene (30 g), and 85% phosphoric acid (20 g; 0.17 mole) were charged in a flask equipped with a stirrer, a thermometer, and a distillation column, and the mixture was stirred at 240°~250° C. for 16 hours. Water produced during that time was distilled out by azeotropic distillation with toluene, and after fractionation the toluene was reflexed. The resulting product was incorporated with an aqueous solution of 48% sodium hydroxide (28.8 g; 0.35 mole) and subjected to distillation under reduced pressure of 1 mm Hg at 210°~215° C. to give a fraction of 239 g (yield, 68% based on diethylene glycol). Total amine value: 465 (theoretical value: 479). 'H--NMR (DMSO--d6, δppm)

reactant | 2-Methyl imidazole | 3.4 moles, 279 g | CC=1NC=CN1 | C4H6N2
reactant | diethylene glycol | 1.5 mole, 159 g | C(COCCO)O | C4H10O3
reactant | phosphoric acid | 0.17 mole, 20 g | P(O)(O)(O)=O | H3O4P
reactant | sodium hydroxide | 0.35 mole, 28.8 g | [OH-].[Na+]
solvent | DMSO | CS(=O)C | C2H6OS
solvent | toluene | 30 g | C1(=CC=CC=C1)C | C7H8
product | 1,1'-(oxydiethylene)-bis(2-methyl imidazole) | O(CCN1C(=NC=C1)C)CCN1C(=NC=C1)C | C12H18N4O
